US09084794B2
b) (+)-2-(4-ethyl-3-oxo-1-oxa-4,9-diazaspiro[5.5]undecan-9-yl)-2-(2-fluoro-4-(8-fluoroquinolin-7-yl)phenyl)acetamide
A 20 mL reaction vial equipped with a stirbar was charged with 2-(4-bromo-2-fluorophenyl)-2-(4-ethyl-3-oxo-1-oxa-4,9-diazaspiro[5.5]undecan-9-yl)acetamide (0.150 g, 0.350 mmol), bis(pinacolato)diboron (0.205 g, 0.806 mmol), PdCl2(dppf)-CH2Cl2 adduct (0.020 g, 0.025 mmol), and potassium acetate (0.076 g, 0.770 mmol). The solids were diluted with 1,4-dioxane (3.12 mL) and the reaction mixture was warmed to 90° C. with stirring overnight. The reaction mixture was then treated with PdCl2(dppf)-CH2Cl2 adduct (0.020 g, 0.025 mmol), 2M aq potassium carbonate (0.385 mL, 0.770 mmol), and 7-bromo-8-fluoroquinoline (0.091 g, 0.403 mmol), and the resulting reaction mixture was stirred at 90° C. for 1 h. The mixture was then diluted with 20 mL dichloromethane and filtered through a stacked pad of sodium sulfate over celite. The filtrate was concentrated to a residue, which was purified by silica gel flash chromatography (0.5-10% methanol:ethyl acetate). Fractions containing the desired material were pooled and concentrated to a hard lacquer and the product was resolved by chiral preparative HPLC (Chromegachiral CC4, 100% methanol) to afford the title compound in >99% ee as an off white solid (42 mg, 0.081 mmol, 23% yield). MS(ES)+ m/e 495.4 [M+H]+. αD=+40 deg (c=0.06, methanol).

reactant | 2-(4-bromo-2-fluorophenyl)-2-(4-ethyl-3-oxo-1-oxa-4,9-diazaspiro[5.5]undecan-9-yl)acetamide | 0.350 mmol, 0.150 g | BrC1=CC(=C(C=C1)C(C(=O)N)N1CCC2(CN(C(CO2)=O)CC)CC1)F | C18H23BrFN3O3
reactant | bis(pinacolato)diboron | 0.806 mmol, 0.205 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 0.770 mmol, 0.076 g | C(C)(=O)[O-].[K+]
reactant | potassium carbonate | 0.770 mmol, 2M, 0.385 mL | C([O-])([O-])=O.[K+].[K+]
reactant | 7-bromo-8-fluoroquinoline | 0.403 mmol, 0.091 g | BrC1=CC=C2C=CC=NC2=C1F | C9H5BrFN
solvent | 1,4-dioxane | 3.12 mL | O1CCOCC1 | C4H8O2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
catalyst | PdCl2(dppf) CH2Cl2 | 0.025 mmol, 0.020 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
catalyst | PdCl2(dppf) CH2Cl2 | 0.025 mmol, 0.020 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
product | (+)-2-(4-ethyl-3-oxo-1-oxa-4,9-diazaspiro[5.5]undecan-9-yl)-2-(2-fluoro-4-(8-fluoroquinolin-7-yl)phenyl)acetamide | C(C)N1C(COC2(C1)CCN(CC2)C(C(=O)N)C2=C(C=C(C=C2)C2=CC=C1C=CC=NC1=C2F)F)=O | C27H28F2N4O3
